US08183380B2
rac-1-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-6-yl]-3-isopropyl-urea
The title compound was prepared in accordance with the general method described in example 3 from isopropyl isocyanate and N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine; MS: m/e=363.3 (M+H+).

reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
reactant | N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)N | C17H15N3O
product | rac-1-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-6-yl]-3-isopropyl-urea | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)NC(=O)NC(C)C | C21H22N4O2
